** sch_path: /home/ivan_torres/UNICASS/IHP__ADC8711/ADC8711-main/schematic/xschem/INV_D3.sch
.subckt INV_D3 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=3
MM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=6
.ends
